* F:\GitHub\Electronics_Modules\ACLine_Trigger_MOC30xx\Simulate\v2.1.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N006 N007 0 Q8004L4 ;§pnba MT2)G)MT1
R§LOAD N001 N006 100
R2 N004 N005 100
V1 N001 0 SINE(0 325 50)
R3 N002 N003 300
V2 N002 0 PULSE(0 5 0.004 1u 1u 100u 10m)
R4 N005 N006 100
C1 N005 0 47n
X§U2 N003 0 N004 N007 MOC3021 ;§pnba led+)led-)mt2)mt1
.tran 40m
.inc Opto_MOC3021.lib
.inc TRIAC_Q8004L4.lib
.backanno
.end
