* Littelfuse, LP
* SIDACtor SPICE Models


* Pxxx0SAMC, DO-214, 30V only, "A" Surge Rating
.SUBCKT SIDAC_30   1   2
*     TERMINALS:  MT2 MT1
QN1 5 4 2  NOUT OFF
QN2 8 6 7  NOUT OFF
QP1 6 8 2  POUT OFF
QP2 4 5 7  POUT OFF
DF  4 3    DZ OFF
DR  6 3    DZ OFF
RT2 1 7    0.05
RH  7 6    3
RH2 4 2    3
.MODEL DZ   D   (IS=321F RS=10 N=1.5 IBV=10N BV=30)
.MODEL POUT PNP (IS=321F BF=10 CJE=50P TF=0.1U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=50P CJC=50P TF=0.1U)
.ENDS


* P0640SCLRP, DO-214, 64V, "C" Surge Rating,"L" ROSH,"RP" Reel Packing
.SUBCKT SIDAC_64   1   2
*       TERMINALS: MT2 MT1
QN1 5 4 2  NOUT OFF
QN2 8 6 7  NOUT OFF
QP1 6 8 2  POUT OFF
QP2 4 5 7  POUT OFF
DF  4 3    DZ OFF
DR  6 3    DZ OFF
RT2 1 7    0.05
RH  7 6    3
RH2 4 2    3
.MODEL DZ   D   (IS=321F RS=10 N=1.5 IBV=10N BV=64)
.MODEL POUT PNP (IS=321F BF=10 CJE=50P TF=0.1U)
.MODEL NOUT NPN (IS=321F BF=20 CJE=50P CJC=50P TF=0.1U)
.ENDS
