.model D_SMBJ3.3A D(IS=0.1u RS=0.3 CJO=4100p M=0.33 VJ=0.4 ISR=0.1m N=1.05 IKF=1m BV=4.1 NBV=20 IBV=10u TT=4n EG=.84)


* TVS, 3.3V, Uni-Directional
.subckt SMBJ3.3A A K
* Series resistor to model package/internal resistance
Rser A N1 0.3
* Core diode from internal node to cathode
Dcore N1 K D_SMBJ3.3A
* Parasitic junction capacitance across A-K
Cpar A K 4100p
.ends SMBJ3.3A


* TVS, 3.3V, Bidirectional
.subckt SMBJ3.3CA A K
* First TVS (original orientation)
X1 A N1 SMBJ3.3A
* Second TVS (flipped orientation)
X2 K N1 SMBJ3.3A
.ends SMBJ3.3CA