* TVS, 3.3V, Uni-Directional (original single diode)
.model D_SMBJ3.3A D(IS=1e-7 RS=0.3 CJO=4100p M=0.33 VJ=0.4 ISR=1e-4 N=1.05 IKF=1e-3 BV=4.1 NBV=20 IBV=1e-5 TT=4n EG=0.84)

* Single-direction Subckt
.subckt SMBJ3.3A A K
Rser A N1 0.3
Dcore N1 K D_SMBJ3.3A
Cpar A K 4100p
.ends SMBJ3.3A

* Bidirectional TVS built from two SMBJ3.3A (one flipped)
.subckt SMBJ3.3CA A K
* First TVS (original orientation)
X1 A N1 SMBJ3.3A
* Second TVS (flipped orientation)
X2 K N1 SMBJ3.3A
.ends SMBJ3.3CA
