.SUBCKT LM336Z_2V5 2 1
* MODEL FORMAT: SPICE3
* External Node Designations
* node 1: Vref OUTPUT
* node 2: Ground (Common)
VSENS1 1 10 0
LXL 10 11 10
EREF 21 32 19 2 1.0
ISET 2 15 1.0m
DON1 15 16 DMOD1
VSENS2 16 19 0
DON3 15 27 DMOD1
RSS 17 27 1000
FX 2 25 VSENS1 1.0
EON3 13 2 25 2 1.0
VDROP3 17 13 -1
DX2 2 31 DMOD1
RZZ 31 30 1
FSENSE 2 30 VSENS1 1.0
EBACK 2 32 31 30 1e6
RFWD 1 33 30
DFWD 2 33 DMOD1
RDFW 2 33 1MEG
EYY 30 35 1 2 0.1
DYY 2 35 DMOD1
RYY 30 36 1
DX1 36 2 DMOD1
RSET 19 2 RSET 2490
.MODEL RSET R TC1=4e-05
RS1 11 12 0.26
RSX 10 11 0.001
LSR1 12 21 4.15394e-05
RS2 10 21 20
RXY 25 2 RXY 18700
.MODEL RXY R TC1=0.001
RSTEP 19 18 22411
CTRAN 18 2 1.43863e-11
.MODEL DMOD1 D
*-- SPICE3 DIODE MODEL DEFAULT PARAMETER
* VALUES ARE ASSUMED
* IS=1e-14 RS=0 N=1 TT=0 CJO=0
* VJ=1 M=0.5 EG=1.11 XTI=3 FC=0.5
* KF=0 AF=1 BV=inf IBV=1e-3 TNOM=27
.ENDS LM336Z_2V5